US05834463
A mixture of (4-nitrophthalimido)acetic acid (2.17 g, 8.7 mmol) and thionyl chloride (5 mL) was refluxed for 80 minutes. The reaction mixture was cooled and, then, concentrated under reduced pressure to give a crude product of (4-nitrophthalimido)acetyl chloride. The crude product was dissolved, while heating, in 1,2-dichloroethane (10 mL). The solution was added (dropwise to a solution of (3aR*,10aS*)-9-benzyl-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]-diazepin-10(1H)-one (2.30 g, 7.9 mmol) in 1,2-dichloroethane (10 mL). The mixture was stirred for 5 minutes at room temperatures, to which was added a saturated aqueous solution of sodium hydrogen carbonate (25 mL). The aqueous layer was separated. The organic layer was washed with water and a saturated aqueous solution of sodium chloride, which was dried over magnesium sulfate, and them subjected to filtration. The filtrate was concentrated under reduced pressure. The concentrate was crystallized from chloroform-ethanol-hexane to give 1.91 g (yield 46%) of the titled compound, m.p. 196.5°-197.5° C.

reactant | (4-nitrophthalimido)acetic acid | 8.7 mmol, 2.17 g | [N+](=O)([O-])C=1C=C2C(C(=O)N(C2=O)CC(=O)O)=CC1 | C10H6N2O6
reactant | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
product | (4-nitrophthalimido)acetyl chloride | [N+](=O)([O-])C=1C=C2C(C(=O)N(C2=O)CC(=O)Cl)=CC1 | C10H5ClN2O5
